US06353010B1
7-Bromo-2-ethyl-4-methoxybenzoxazole
2-Ethyl-4-methoxybenzoxazole (2.81 g) was dissolved in methanol (80 ml) under nitrogen and the solution cooled to −78° C. Bromine (0.73 ml) was added dropwise. The mixture was allowed to warm gradually to room temperature and stirred for 3.5 h. The methanol was evaporated in vacuo and the residue partitioned between ethyl acetate and aqueous sodium bicarbonate. The combined organic phases were washed with 5% aqueous sodium metabisulphite, evaporated onto silica and purified by flash chromatography eluting with 25%-50% ethyl acetate in hexane to give a mixture of the title compound and 2-ethyl-4-methoxybenzoxazole as a pale yellow liquid (2.28 g).

reactant | 2-Ethyl-4-methoxybenzoxazole | 2.81 g | C(C)C=1OC2=C(N1)C(=CC=C2)OC | C10H11NO2
reactant | Bromine | 0.73 ml | BrBr | Br2
reactant | 2-ethyl-4-methoxybenzoxazole | 2.28 g | C(C)C=1OC2=C(N1)C(=CC=C2)OC | C10H11NO2
solvent | methanol | 80 ml | CO | CH4O
product | 7-Bromo-2-ethyl-4-methoxybenzoxazole | BrC1=CC=C(C=2N=C(OC21)CC)OC | C10H10BrNO2
